US04710468
The procedure of example 369 was repeated using methyl-4-chloroacetoacetate as the substrate to afford methyl-4-chloro-3(R)-hydroxybutyrate, [α]D23 +21.15° (c, 4.2 CHCl3).

reactant | methyl-4-chloroacetoacetate | COC(CC(=O)CCl)=O | C5H7ClO3
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | methyl-4-chloro-3(R)-hydroxybutyrate | COC(C[C@H](CCl)O)=O | C5H9ClO3
